US05606037
Methyl (1-hydroxy-5,10-dioxo-3,4,5,10-tetrahydronaphtho [2,3-C] pyran-3-yl) ketone BCH-1148
A mixture of methyl (1-methoxy-5,8 dioxo-tetrahydrobenzo [2,3-C] pyran-3-yl) ketone (100 mg, 0.450 mmol) and acetoxy butadiene (80 μg, 0.675 mmol) in dry benzene (5 mL) was heated for 3 hours at 60° C. under argon atmosphere. The solvent was then removed in vacuo and the resultting adduct was dissolved in 10 mL of toluene and then aromatized on silica gel by flash chromatography (toluene:ethyl acetate; 90%:10% followed by 70%:30%). Evaporation of the solvents gave 37 mg (31% yield) of pure titled compound.

reactant | methyl (1-methoxy-5,8 dioxo-tetrahydrobenzo [2,3-C] pyran-3-yl) ketone | 0.450 mmol, 100 mg | COC1OC(CC2C1C(C=CC2=O)=O)C(=O)C | C12H14O5
reactant | acetoxy butadiene | 0.675 mmol, 80 μg | C(C)(=O)OC=CC=C | C6H8O2
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
product | Methyl (1-hydroxy-5,10-dioxo-3,4,5,10-tetrahydronaphtho [2,3-C] pyran-3-yl) ketone | 37 mg, 31% yield | OC1OC(CC2=C1C(C1=CC=CC=C1C2=O)=O)C(=O)C | C15H12O5
